US06734200B1
3-(4-(3(S)-(2-Methoxyethoxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5(S)-(isoxazol-3-ylaminomethyl)oxazolidin-2-one
3-(4-(3(S)-(2-Methoxyethoxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5(R)-(N-(2,2,2-trichloroethyloxycarbonyl)isoxazol-3-ylaminomethyl)oxazolidin-2-one (400 mg, 0.5 mM) was stirred in a mixture of acetic acid (10 ml) and water (2 ml). Zinc dust (203 mg, 3.1 mM) was added, and the mixture stirred 30 minutes at ambient temperature. The mixture was filtered through celite, and the residue after evaporation partitioned between ethyl acetate (10 ml) and aqueous sodium bicarbonate (15 ml). The organic phase was washed with sodium bicarbonate (2×15 ml), water (15 ml), dried (magnesium sulfate), and evaporated. The crude product was purified by chromatography on a 10 g Biotage silica column, eluting with a gradient from dichloromethane to ethyl acetate. Relevant fractions were combined to give the desired product (141 mg ). NMR (DMSO-d6) δ: 1.83 (hextet, 1H); 2.09 (hextet, 1H); 3.13 (m, 1H); 3.26 (s, 3H); 3.40, 3.47 (t overlapping m, 7H); 3.73 (dd, 1H); 4.04 (overlapping m, 4H); 4.82 (m, 1H); 6.01 (d, 1H); 6.52 (t, 1H); 6.72 (t, 1H); 7.08 (dd, 1H); 7.39 (dd, 1H); 7.52 (d, 1H); 8.37 (d, 1H). MS (ESP): 464 (MH+) for C21H26FN5O6

reactant | 3-(4-(3(S)-(2-Methoxyethoxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5(R)-(N-(2,2,2-trichloroethyloxycarbonyl)isoxazol-3-ylaminomethyl)oxazolidin-2-one | 0.5 mM, 400 mg | COCCOC(=O)N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN(C(=O)OCC(Cl)(Cl)Cl)C1=NOC=C1)=O)F | C24H27Cl3FN5O8
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
catalyst | Zinc | 3.1 mM, 203 mg | [Zn] | Zn
product | 3-(4-(3(S)-(2-Methoxyethoxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5(S)-(isoxazol-3-ylaminomethyl)oxazolidin-2-one | 141 mg | COCCOC(=O)N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC1=NOC=C1)=O)F | C21H26FN5O6
